US04267193
N-Carboxymethyl-2,6-Diisopropyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline
Stirr ethyl N-[2,6-diisopropyl-4-(hexafluoro-2-hydroxy-2-propyl)phenyl]glycinate (5.0 g, 12 mmol) with 50 ml 1.0 N NaOH for 1 hour. Neutralize the solution with 50 ml 1.0 N HCl. Filter the solid, dissolve in ether, dry and concentrate. Recrystallize from ether-hexane to obtain the title compound as a white solid, m.p. 130°-132° C.

reactant | ethyl N-[2,6-diisopropyl-4-(hexafluoro-2-hydroxy-2-propyl)phenyl]glycinate | 12 mmol, 5.0 g | C(C)(C)C1=C(C(=CC(=C1)C(C(F)(F)F)(C(F)(F)F)O)C(C)C)NCC(=O)OCC | C19H25F6NO3
reactant | NaOH | 1.0 N, 50 ml | [OH-].[Na+]
solvent | HCl | 1.0 N, 50 ml | Cl | ClH
product | N-Carboxymethyl-2,6-Diisopropyl-4-(Hexafluoro-2-Hydroxy-2-Propyl)Aniline | C(=O)(O)CNC1=C(C=C(C=C1C(C)C)C(C(F)(F)F)(C(F)(F)F)O)C(C)C | C17H21F6NO3
